US06855710B2
c) (Z)-3-{1-[4-(dimethylaminosulphonyl)-phenylamino]-1-phenyl-methylidene}-2-indolinone
Prepared analogously to Example 1c from 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone and 4-aminobenzenesulphonic acid-dimethylamide.

reactant | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)OCC)=O | C19H17NO3
reactant | 4-aminobenzenesulphonic acid-dimethylamide | CN(S(=O)(=O)C1=CC=C(C=C1)N)C | C8H12N2O2S
product | (Z)-3-{1-[4-(dimethylaminosulphonyl)-phenylamino]-1-phenyl-methylidene}-2-indolinone | CN(S(=O)(=O)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O)C | C23H21N3O3S
